US05025025
A solution of 2.9 g (5 mmol) of ethyl 8-[N-(p-chloro- phenylsulfonyl)-N-(t-butoxycarbonyl)amino]-4-[2-(3-pyridyl- oxy)-ethyl]octanoate in 30 ml trifluoroacetic acid is stirred at room temperature. After 18 hours the reaction mixture is evaporated to dryness. The residue is dissolved in methylene chloride and the solution is washed with saturated NaHCO3 solution, dried and evaporated. The residue is chromatographed on silica gel using 1:1 ethyl acetate/methylene chloride as eluent to yield ethyl 8-(p-chlorophenylsulfonamido)-4-[2-(3-pyridyloxy)ethyl]octanoate.

reactant | ethyl 8-[N-(p-chloro- phenylsulfonyl)-N-(t-butoxycarbonyl)amino]-4-[2-(3-pyridyl- oxy)-ethyl]octanoate | 5 mmol, 2.9 g | ClC1=CC=C(C=C1)S(=O)(=O)N(C(=O)OC(C)(C)C)CCCCC(CCC(=O)OCC)CCOC=1C=NC=CC1 | C28H39ClN2O7S
solvent | trifluoroacetic acid | 30 ml | FC(C(=O)O)(F)F | C2HF3O2
product | ethyl 8-(p-chlorophenylsulfonamido)-4-[2-(3-pyridyloxy)ethyl]octanoate | ClC1=CC=C(C=C1)S(=O)(=O)NCCCCC(CCC(=O)OCC)CCOC=1C=NC=CC1 | C23H31ClN2O5S
